**************************************************************************************************************************************************************************************************
*
*     888888               888888 	        888888     .o888888888888o.     8888  		88888888888	o888888888888888     88888888888888o	88888888888   88888888888   8888888888o
*       88888             88888888             88888      .8888888  8888888.    8888  		88888888888    o8888888888888888     888888  8888888o	88888888888   88888888888   88888888888o
*        88888           8888  8888           88888      .8888888.  .8888888.   8888  		8888	       888888888	     888888  88888888	8888	      8888	    8888   88888
*         88888         8888    8888         88888       88888888    88888888   8888		8888   	       888888888	     888888  88888888	8888	      8888	    8888   88888
*	   88888       8888      8888       88888        88888888    88888888   8888  		8888888	       o888888888888888o     888888  8888888o	8888888	      8888888	    8888   88888
*	    88888     8888        8888     88888	 88888888    88888888   8888  		8888888		o888888888888888o    88888888888888o	8888888	      8888888       8888   88888
*	     88888   8888          8888   88888          88888888    88888888   8888  		8888		         88888888    8888		8888	      8888	    8888   88888
*	      88888 8888            8888 88888  	 .8888888.  .8888888.   8888  		8888 			 88888888    8888		8888	      8888	    8888   88888
*	       88888888	 	     88888888		  .8888888  8888888.    88888888888	8888		8888888888888888o    8888		88888888888   88888888888   88888888888o
*		888888		      888888  		   .o888888888888o.     88888888888	8888		888888888888888o     8888		88888888888   88888888888   8888888888o
*
**************************************************************************************************************************************************************************************************
*******************************************************************************
*******************************************************************************
**	DISCLAIMER
*******************************************************************************
**	This model is provided as is, where is, and with no warranty of any kind
**	either expressed or implied, including but not limited to any implied 
**	warranties of merchantability and fitness for a particular purpose.
*******************************************************************************

***********************************************************
****	Wolfspeed SiC MOSFET C2M0045170P Spice Library 
****	Version 2.0 Date: 11-27-2017
****	Version 3.0 Date: 01-22-2018
***********************************************************
****	Revision record
****	Version 1	Initial Release
****	Version 2	Include Tc at gmos subcircuit
****	Version 3	This spice model is compatible to both Ltspice and Orcad Pspsice
***********************************************************
****Parasitics Included
****Tj = Junction Temperature
****Tc = Case Temperature
****D = Drain
****G = Gate
****S1 = Kelvin Source
****S2 = Power Source
***********************************************************

.subckt C2M0045170P d g s1 s2 Tj Tc 

xgmos	d3 d1 g1 s Tj Tc gmos_C2M0045170P
RS1		s1	sb	24.018m
Ls1 		sb	s	7.334n
R_Ls1 		sb	s       200

RS2		s2	sa	0.965m
Ls2 		sa	s	2.66n
R_Ls2 		sa	s      	0.9

R_g 		g1	g2	1.3
RG		g	ga	34.63m
Lg 		ga	g3	10.422n
R_Lg		ga	g3	20

Rd		d	da	87.42u
Ld 		da	d3      4.366n
R_Ld		da	d3	1

G1		d2	d1      Value {V(d1,s)}
R_A		d2	d1	1E6
vgate_s		g3	g2	0
vdrain_s	d3	d2	0
Gheat		0	Tj	value {abs((V(d,s1)*I(Vdrain_s)))+abs((V(g1,g2)*I(Vgate_s)))}
xCGD		d2	g1	cgdmos_C2M0045170P 
CGS		g1	s	3665.3p
D1		s	d2	bodydiode_C2M0045170P


R0 N1 Tj 7.16m
R1 N2 N1 21.5m
R2 N3 N2 106m
R3 Tc N3 104m
C0 Tj 0 2m
C1 N1 0 7.41m
C2 N2 0 25.1m
C3 N3 0 163m

.ends C2M0045170P

*****************************************

.subckt gmos_C2M0045170P d3 d1 g1 s Tj Tc

e1		NET1	0	Value {-0.1224*v(gk,s)+3.5048}
R_a		NET1	0 	1E6

e3		NET3	0	Value {16.8u*(V(Tj)**2)-7.696m*V(Tj)+2.47}
R_C		NET3	0 	1E6

e2		NET2	0	Value {8.1m*V(gk,s)+30m}
R_B		NET2	0 	1E6

e4		NET4	0	Value {8.71u*(V(Tj)**2)-4.4847m*V(Tj)+0.5067}
R_d		NET4	0 	1E6

e10		NET10   0	Value {0.001955*(V(gk,s)**2)-0.05266*V(gk,s)+0.36714+V(NET11)}
R_K		NET10	0	1E6

e11		NET11   0	Value {-2.403u*(V(Tj)**2)-651.43u*V(Tj)+0.151788}
R_L		NET11	0	1E6


e5		NET5	0	value {
+				if(V(gk,s)>18.2,
+					-236.11n*(V(Tj)**2)-465.08u*v(Tj)+129.77m   
+					,
+					0
+					)
+					}
R_e		NET5	0 	1E6

e6		NET6	0	value {
+				if(V(gk,s)>16 & V(gk,s)<=18.2,
+					-890.69n*(V(Tj)**2)-444.13u*v(Tj)+0.14566
+					,
+					0
+					)
+					}
R_f		NET6	0 	1E6

e7		NET7	0	value {
+				if(V(gk,s)>14 & V(gk,s)<=16,
+					-1.52227u*(V(Tj)**2)-453.6u*v(Tj)+0.1663
+					,
+					0
+					)
+					}
R_g		NET7	0 	1E6

e8		NET8	0	value {
+				if(V(gk,s)>12 & V(gk,s)<=14,
+					-4.68u*(V(Tj)**2)-100.97u*v(Tj)+0.19745  
+					,
+					0
+					)
+					}
R_h		NET8	0 	1E6

e9		NET9	0	value {
+				if(V(gk,s)>10 & V(gk,s)<=12,
+					-6.345u*(V(Tj)**2)+166.36u*v(Tj)+0.2248    
+					,
+					0
+					)
+					}
R_j		NET9	0 	1E6

e12		NET12	0	value {
+				if(V(gk,s)>v(NET3) & V(gk,s)<=10,
+					-7.709u*(V(Tj)**2)+668.99u*v(Tj)+0.2341  
+					,
+					0
+					)
+					}
R_m		NET12	0 	1E6
.param p8  = 0.0011
.param p11 = -10
.param p12 = 25

R100 gk s	1E6
E100 gk s 	value {limit(V(g1,s),p11,p12)}


********************************
G1 d1 s value {
+	if(V(s,d3)<0,
+		0
+		,
+		if (V(gk,s)<v(NET3) ,
+		-((0.035)*(v(gk,s)-V(NET3)))*(-(1+p8*v(s,d3))*0.008)*(((log(1+exp(v(gk,s)-V(NET3))))**2)
+		-((log(1+exp(v(gk,s)-V(NET3)-(0.854*v(s,d3)))))**2))
+		,
+		-(((v(NET5)+v(NET6)+v(NET7)+v(NET8)+v(NET9)+v(NET12))*(v(gk,s)-V(NET3)))+v(NET4))*(1+p8*v(s,d3))*
+		(((log(1+exp(v(gk,s)-V(NET3))))**2)-((log(1+exp(v(gk,s)-V(NET3)
+		-(V(NET2)*v(s,d3)*((1+exp(-v(NET10)*v(s,d3)))**v(NET1))))))**2))
+		)
+			)
+			}
G2 d1 s value {
+	if(V(d3,s)<0,
+		0
+		,
+		if (V(gk,s)<v(NET3) ,
+		((0.035)*(v(gk,s)-V(NET3)))*(-(1+p8*v(d3,s))*0.008)*(((log(1+exp(v(gk,s)-V(NET3))))**2)
+		-((log(1+exp(v(gk,s)-V(NET3)-(0.854*v(d3,s)))))**2))
+		,
+		(((v(NET5)+v(NET6)+v(NET7)+v(NET8)+v(NET9)+v(NET12))*(v(gk,s)-V(NET3))))*(1+p8*v(d3,s))*
+		(((log(1+exp(v(gk,s)-V(NET3))))**2)-((log(1+exp(v(gk,s)-V(NET3)
+		-(V(NET2)*v(d3,s)*((1+exp(-v(NET10)*v(d3,s)))**v(NET1))))))**2))
+		)
+			)
+			}


.ends gmos_C2M0045170P

****************************************

.subckt cgdmos_C2M0045170P d2 g1
.param k1=1045p
.param k2=0.508
.param ka=30
.param kb=0.7
.param kc=6.5277
G11 g1 d1 value {
+		k1*(
+		(1+v(d1,g1)*(1+ka*(1+TANH(kb*V(d1,g1)-kc))/2))**-k2
+		)*ddt(v(g1,d1))
+			}
R_CGD d1 d2 1e-4

.ends cgdmos_C2M0045170P


****************************************
.model bodydiode_C2M0045170P d(is=68.89n cjo=2970p bv=2200 m=0.45 EG=3.60827 vj=1.45 n=6.5 
+	rs=0.022 trs1=1u  trs2=-20.5003u Tnom=25
+	tt=11.5n ibv=500u Xti=0.13 level=1)








